* TMR Sensor Array - Component Models
* Generated by TMR Schematic Drawer

.SUBCKT AD8220 IN+ IN- REF RG VS+ VS- OUT
* AD8220 Instrumentation Amplifier
X1 IN+ REF VS+ VS- BUFF OUT OPAMP1
X2 IN- REF VS+ VS- BUFF OPAMP1
RG1 RG BUFF 1
.MODEL OPAMP1 AMP(A=100K GAIN=110dB)
.ENDS

.SUBCKT OPA2387 IN+ IN- VS+ VS- OUT
* OPA2387 Precision Op-Amp
A1 IN+ IN- VS+ VS- OUT OPAMP2
.MODEL OPAMP2 AMP(A=1E6 GAIN=120dB GBW=10MEG)
.ENDS

.SUBCKT TMR2305 P1 P2
* TMR2305 Tunneling Magnetoresistive Sensor
R1 P1 P2 R={2.5k+2.5k*sin((angle-90)*pi/180)}
.PARAM angle=0
.ENDS

.SUBCKT ADG1607 S1 S2 S3 S4 S5 S6 S7 S8 S9 S10 S11 S12 S13 S14 S15 S16 D S0 S1 S2 S3 EN VDD GND
* ADG1607 16-channel Multiplexer
* Simplified model for simulation purposes
.ENDS

.SUBCKT ADS8688 AIN0 AIN1 AIN2 AIN3 AIN4 AIN5 AIN6 AIN7 REFP REFN AVDD DVDD GND SCLK MOSI MISO CS
* ADS8688 16-bit ADC
* Simplified model for simulation purposes
.ENDS
